US08877782B2
b) C-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-yl]-methylamine
To a solution of 2-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-isoindole-1,3-dione (6.3 g, 19 mmol) in THF (252 mL) and ethanol (22 mL) at 0° C. was added hydrazine hydrate (7.0 g, 6.8 mL, 140 mmol) and the resulting mixture stirred at room temperature overnight. The mixture was then filtered and the filtrate diluted with HCl (1 N) and extracted with ethyl acetate. The combined organic extracts were then washed with HCl (1 N) and the aqueous layer made basic with NaOH (6 N). The aqueous layers were extracted with ethyl acetate and the combined organic layers washed with brine and dried over sodium sulfate. Concentration and purification by chromatography (NH2—SiO2, dichloromethane) afforded the title compound (3.0 g, 77%) as a yellow oil. MS: m/e=207.3 [M+H]+.

reactant | 2-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-isoindole-1,3-dione | 19 mmol, 6.3 g | FC=1C=C(C=CC1)C1=NOC(=C1CN1C(C2=CC=CC=C2C1=O)=O)C | C19H13FN2O3
reactant | hydrazine hydrate | 140 mmol, 6.8 mL, 7.0 g | O.NN
solvent | THF | 252 mL | C1CCOC1 | C4H8O
solvent | ethanol | 22 mL | C(C)O | C2H6O
product | C-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-yl]-methylamine | 3.0 g, 77% | FC=1C=C(C=CC1)C1=NOC(=C1CN)C | C11H11FN2O
